US05952382
(a) Preparation of allyl 4-[7-(1-adamantyl)-6-ethoxycarbonyl-pentyloxy-2-naphthyl]benzoate
Following the procedure of Example 12(a), but reacting 3 g (6.8 mmol) of allyl 4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate with 2.3 g (10.2 mmol) of ethyl 6-bromohexanoate, 2.15 g (55%) of the expected compound were obtained, which compound had a melting point of 116°-7° C.

reactant | allyl 4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate | 6.8 mmol, 3 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OCC=C)C=C2)O | C30H30O3
reactant | ethyl 6-bromohexanoate | 10.2 mmol, 2.3 g | BrCCCCCC(=O)OCC | C8H15BrO2
product | allyl 4-[7-(1-adamantyl)-6-ethoxycarbonyl-pentyloxy-2-naphthyl]benzoate | 2.15 g, 55% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=C(C3=C2)OCCCCC)C2=CC=C(C(=O)OCC=C)C=C2)C(=O)OCC | C38H44O5
